US07256198B2
Step 2: 5′-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′ (1′H)-one
To a rapidly and efficiently stirred suspension of 5-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione (16.13 g, 41.7 mmol) in benzene (785 mL) was added p-toluenesulfonic acid mono-hydrate (1.58 g, 8.34 mmol, 0.2 mole % ) and 1,3 propanediol (12.2 mL, 167 mmol, 4 eq) and the mixture was heated to reflux under a Dean Stark Trap for 5 hr. Additional p-toluenesulfonic acid (1.50 g, 0.2 mole % ) was added and the mixture was heated for another 1.5 hr. After cooling in an ice bath, the black reaction mixture was washed with sat. aq. NaHCO3 (3×350 mL), water (2×500 mL), brine (3×500 mL), dried over Na2SO4, filtered and concentrated. The crude product was purified on silica gel eluting with CH2Cl2 followed by 50/50 Pet ether/EtOAc to give the title compound as an orange solid (11.44 g, 61.7% yield). NMR (400 MHz, DMSO-d6): consistent. MS: (ES−) m/z 443 [M−H]. MS: (ES+) m/z 445 [M+H].

reactant | 5-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione | 41.7 mmol, 16.13 g | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C19H18N2O5S
reactant | p-toluenesulfonic acid mono-hydrate | 8.34 mmol, 1.58 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1,3 propanediol | 167 mmol, 12.2 mL, 4 eq | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | 1.50 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 785 mL | C1=CC=CC=C1 | C6H6
product | 5′-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′ (1′H)-one | 11.44 g, 61.7% yield | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C22H24N2O6S
